US04405635
1,3-Dihydro-4-(2-thienoyl)-2H-imidazol-2-one
In 50 ml of nitrobenzene is combined 13.3 g of aluminum chloride, 4.2 g of 1,3-dihydro-2H-imidazol-2-one and 8.1 g of thienoyl chloride. The mixture is stirred at 60° C. for 3 hours and poured over ice water. The solids are filtered, washed with ether and recrystallized twice from ethanol-water to afford the title compound. M.P. 339°-42° C.

reactant | aluminum chloride | 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dihydro-2H-imidazol-2-one | 4.2 g | N1C(NC=C1)=O | C3H4N2O
reactant | thienoyl chloride | 8.1 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-Dihydro-4-(2-thienoyl)-2H-imidazol-2-one | S1C(=CC=C1)C(=O)C=1NC(NC1)=O | C8H6N2O2S
